US03950343
3,4- Dihydropyrrolo-8 4,3,2 -de ]isoquinolin-5(1 H)-one (6; R 1 = H)
Sodium metal (19.2 g) is dissolved in absolute methanol (1 l.) with ice-water cooling. To the clear solution is added a solution of 3-(aminomethyl)indole-4-carboxylic acid methyl ester hydrochloride (102.7 g), described in Example 3, in absolute methanol (1 l.). The addition is done in portions within a few minutes. After stiring for 1.5 hr at room temperature the solution is concentrated to near dryness and ice cold water (250 ml) is added to the crystalline residue. The precipitate is collected, washed with cold water and dried to give the title compound, mp. 232°-234°C, identical to the product of Preparation A of this example.

reactant | Sodium | 19.2 g | [Na] | Na
reactant | 3-(aminomethyl)indole-4-carboxylic acid methyl ester hydrochloride | 102.7 g | Cl.COC(=O)C=1C=2C(=CNC2C=CC1)CN
reactant | methanol | 1 l | CO | CH4O
reactant | methanol | 1 l | CO | CH4O
product | isoquinolin-5(1 H)-one | C1N=CC=C2C(C=CC=C12)=O | C9H7NO
